US05650422
A suspension of 0.4 g of 5-amino-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin in 25 ml of acetonitrile was treated with 0.08 g (0.001 mol) of acetyl chloride, the mixture was heated under reflux for 30 minutes, treated with an additional drop of acetyl chloride and refluxing continued for another 30 minutes. Evaporation of the mixture to dryness afforded a white foam which was chromatographed on silica gel with 95:5 MDC:ethyl acetate to give 200 mg (43%) of 5-acetylamino-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin.

reactant | 5-amino-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin | 0.4 g | NC=1C=C2C(N(S(=O)(=O)C2=CC1)C(C1=CC=CC=C1)SC1=NN=NN1)=O | C15H12N6O3S2
reactant | acetyl chloride | 0.001 mol, 0.08 g | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-acetylamino-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin | 200 mg, 43% | C(C)(=O)NC=1C=C2C(N(S(=O)(=O)C2=CC1)C(C1=CC=CC=C1)SC1=NN=NN1)=O | C17H14N6O4S2
